US06576630B1
A mixture comprised of potassium hydride (0.29 g, 2.56 mmol, 67% in mineral oil) in anhydrous ether (5 mL) was cooled to 0° C. and then a solution comprised of 5-bromo-1H-indole (0.5 g, 2.56 mmol) in anhydrous ether (5 ml) was added. The mixture was stirred for 15 minutes and then cooled to −78° C. under nitrogen. A solution comprised of tert-butyllithium (3 mL in pentane, 5.08 mmol) in anhydrous ether (5 mL) was cooled to −78° C. and added to the indole mixture over 2 minutes. The mixture was stirred for 10 minutes and then a solution comprised of benzyl 1-[1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate (0.3 g, 0.64 mM) in ether (10 mL) was added. The mixture was allowed to warm to room temperature and then poured into a cold solution at 0° C. of phosphoric acid (25 mL, 1 M in water). The aqueous layer was separated and extracted with ethyl acetate (25 mL). The organic layers were combined and washed with saturated sodium bicarbonate (25 mL), dried (MgSO4) and concentrated. The product was purified from the residue by flash chromatography on silica gel eluting with 1:2 ethyl acetate/hexanes to provide benzyl 1-[1-(1H-indol-2-ylcarbonyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate (112 mg, 0.21 mmol) as a white solid. MS (ESI) m/z=526(M+1); 1H NMR (CDCl3): δ 0.8-1.05 (d, J=4 Hz, 6H), 1.5 (s, 1H), δ 1.5-1.78 (m, 3H), δ 2.00 (m, 1H), δ 2.4 (m, 1H), δ 2.65 (m, 2H), δ 4.35 (m, 1H), δ 5.17 (s, 2H), δ 5.25 (d,J=6 Hz 1H), δ 5.75 (m, 1H), δ 6.55 (s, 1H) 7.05 (d, J=4 Hz, 1H), δ 7.1-7.45 (m, 10H) 7.7(d, J=4 Hz, 1H), δ 8.15 (d, J=4 Hz, 1H) 8.78 (m, 1H). (C32H35N3O4).

reactant | potassium hydride | 2.56 mmol, 0.29 g | [H-].[K+]
reactant | 5-bromo-1H-indole | 2.56 mmol, 0.5 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | tert-butyllithium | 5.08 mmol, 3 mL | C(C)(C)(C)[Li]
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | benzyl 1-[1-(N-methoxy-N-methylcarbamoyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate | 0.64 mM, 0.3 g | CON(C(=O)C(CCC1=CC=CC=C1)NC(=O)C(CC(C)C)NC(OCC1=CC=CC=C1)=O)C | C26H35N3O5
reactant | phosphoric acid | 1 M, 25 mL | P(O)(O)(O)=O | H3O4P
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | benzyl 1-[1-(1H-indol-2-ylcarbonyl)-3-phenylpropylcarbamoyl]-3-methylbutylcarbamate | 0.21 mmol, 112 mg | N1C(=CC2=CC=CC=C12)C(=O)C(CCC1=CC=CC=C1)NC(=O)C(CC(C)C)NC(OCC1=CC=CC=C1)=O | C32H35N3O4
